US07968573B2
To a solution of 0.80 g of 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carbonyl chloride in 20 ml of acetonitrile, 0.44 g of 2-amino-3-chlorobenzoic acid was added. The mixture was stirred at room temperature for 10 minutes and then, 0.36 ml of triethylamine was added thereto. The mixture was stirred at room temperature for 20 minutes and then, 0.72 ml of triethylamine was further added thereto. After the mixture was stirred at room temperature for 20 minutes, 0.22 ml of methanesulfonyl chloride was added and the mixture was stirred at room temperature for 20 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 1.17 g of 8-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-4H-3,1-benzoxazine-4-one of the formula:

reactant | 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carbonyl chloride | 0.80 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)Cl)C(F)(F)F | C10H4Cl2F3N3O
reactant | 2-amino-3-chlorobenzoic acid | 0.44 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | triethylamine | 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.72 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.22 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 8-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-4H-3,1-benzoxazine-4-one | 1.17 g | ClC1=CC=CC=2C(OC(=NC21)C2=CC(=NN2C2=NC=CC=C2Cl)C(F)(F)F)=O | C17H7Cl2F3N4O2
